US03985881
4.48 g. of α-(3,4,5-trimethoxybenzamido)-N-[2-hydroxy-2-(3,4-dimethoxyphenyl)-ethyl]-acetamide [producible from 2-(3,4-dimethoxyphenyl)-2-hydroxyethylamine and 3,4,5-trimethoxybenzamidoacetyl chloride] is allowed to stand in 100 ml. of chloroform with 6.2 g. of phosphorus pentachloride for 3 days at 20°. The mixture is decomposed with ice water and washed several times with NaHCO3 solution. The chloroform solution is evaporated. The thus-obtained crude 1-(3,4,5-trimethoxybenzamidomethyl)-6,7-dimethoxy-isoquinoline is taken up in 50 ml. of methanol, combined with 400 mg. of PtO2, and hydrogenated at 20° and under normal pressure. The product is filtered and evaporated. Chromatography on silica gel (with chloroform/methanol 19:1) yields 1-(3,4,5-trimethoxybenzamidomethyl)-6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline; hydrochloride, m.p. 234°-236°.

reactant | α-(3,4,5-trimethoxybenzamido)-N-[2-hydroxy-2-(3,4-dimethoxyphenyl)-ethyl]-acetamide | COC=1C=C(C(=O)NCC(=O)NCC(C2=CC(=C(C=C2)OC)OC)O)C=C(C1OC)OC | C22H28N2O8
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | phosphorus pentachloride | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
catalyst | PtO2 | O=[Pt]=O
solvent | methanol | CO | CH4O
product | 1-(3,4,5-trimethoxybenzamidomethyl)-6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline | COC=1C=C(C(=O)NCC2NCCC3=CC(=C(C=C23)OC)OC)C=C(C1OC)OC | C22H28N2O6
